US08372874B2
Step 4: Synthesis of [3-(1,1-Dimethyl-2-oxo-ethyl)-isoxazol-5-yl]-carbamic acid tert-butyl ester
Dess-Martin periodinane (1.39 g, 3.29 mmol) is added to a solution of [3-(2-hydroxy-1,1-dimethyl-ethyl)-isoxazol-5-yl]-carbamic acid tert-butyl ester (602.0 mg, 2.35 mmol) in DCM (20 mL). The reaction mixture is stirred at room temperature for 1 h. After this time, the reaction mixture is quenched with 50 mL (1:1) of saturated aqueous NaHCO3 solution and saturated aqueous sodium thiosulfate solution and stirred at room temperature for 2 h then extracted with DCM twice. The organic extracts are combined and washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure to provide 587.0 mg of the title compound. Yield: 98.3% 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.45 (6H, s), 1.55 (9H, s), 6.05 (1H, s), 7.25 (1H, s), 9.65 (1H, s).

reactant | Dess-Martin periodinane | 3.29 mmol, 1.39 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | [3-(2-hydroxy-1,1-dimethyl-ethyl)-isoxazol-5-yl]-carbamic acid tert-butyl ester | 2.35 mmol, 602.0 mg | C(C)(C)(C)OC(NC1=CC(=NO1)C(CO)(C)C)=O | C12H20N2O4
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | [3-(1,1-Dimethyl-2-oxo-ethyl)-isoxazol-5-yl]-carbamic acid tert-butyl ester | 587.0 mg, Yield: 98.3% | C(C)(C)(C)OC(NC1=CC(=NO1)C(C=O)(C)C)=O | C12H18N2O4
